US06083908
Then (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid (0.12 g, 0.48 mmol) was dissolved in methylene chloride (5 ml) and a mixture of 1-hydroxy-7-azabenzotriazole (0.065 g, 0.48 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.092 g, 0.48 mmol) was added and stirred for 30 min. Then a mixture of the obtained crude product (0.18 g, 0.40 mmol) and diisopropylethylamine (0.09 ml, 0.53 mmol) was added and the mixture was stirred overnight.

reactant | (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid | 0.48 mmol, 0.12 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.48 mmol, 0.065 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.48 mmol, 0.092 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | diisopropylethylamine | 0.53 mmol, 0.09 ml | C(C)(C)N(CC)C(C)C | C8H19N
